US05635527
To a mixture of trans-4-aminocyclohexanol (5.00 g, 43.4 mmol), N,N-dimethylurea (3.82 g, 43.4 mmol), 37% formalin (50 ml), N-methylmorpholine (9.54 ml, 86.8 mmol) and dioxane (10 ml) was added toluene (200 ml), and the mixture was heated for about 5 hours while removing water for azeotropic distillation. Low boiling matters were distilled away from the reaction mixture under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1-10/1) to give 7.40 g of trans-5-(4-hydroxycyclohexyl)-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine as colorless solid (75%).

reactant | trans-4-aminocyclohexanol | 43.4 mmol, 5.00 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | N,N-dimethylurea | 43.4 mmol, 3.82 g | CN(C(=O)N)C | C3H8N2O
reactant | formalin | 50 ml | C=O | CH2O
reactant | N-methylmorpholine | 86.8 mmol, 9.54 ml | CN1CCOCC1 | C5H11NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | trans-5-(4-hydroxycyclohexyl)-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine | 7.40 g, 75% | O[C@@H]1CC[C@H](CC1)N1CN(C(N(C1)C)=O)C | C11H21N3O2
